* C:\Users\annegautham\Documents\LTspice\circuit1woV.asc
C1 N001 0 1
R1 N001 0 1
R2 N001 N002 1
L1 N001 N003 1
C2 N002 N003 1
L2 N003 0 1
R3 N002 0 1
C3 N002 0 1
.backanno
.end
